US06846929B2
5-[4-(2,2,6,6-Tetramethylpiperidin-1-yloxy)-phenyl]-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
The title compound is prepared reacting 0.59 g (3.75 mmol) of 1-oxyl-2,2,6,6-tetramethylpiperidine, 1.0 g (10 mmol) of tert-butyl nitrite, 2.3 mg (0.0037 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II), 120 mL of pyridine and 24.0 g (75 mmol) of 5-(4-aminophenyl)-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole, prepared in Example 17, in 10 mL of pyridine at 70° C. The crude product obtained is purified by vacuum flash chromatography (2% ethyl acetate/heptane) to give 2.20 g of the title compound as a colorless oil in 87.3% yield. M/S [M+1]673.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidine | 3.75 mmol, 0.59 g | ON1C(CCCC1(C)C)(C)C | C9H19NO
reactant | tert-butyl nitrite | 10 mmol, 1.0 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-(4-aminophenyl)-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 75 mmol, 24.0 g | NC1=CC=C(C=C1)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C35H40N4O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | 5-[4-(2,2,6,6-Tetramethylpiperidin-1-yloxy)-phenyl]-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 87.3% yield | CC1(N(C(CCC1)(C)C)OC1=CC=C(C=C1)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1)C | C44H56N4O2
